US04152441
A. Preparation of 1-[(benzyloxy)methyl]imidazole.
To 58 g. of imidazole-sodium in 200 ml. of anhydrous tetrahydrofuran 100 g. of benzyl chloromethyl ether were added drop-wise with stirring at a temperature of 0° to 5° C. Cooling was discontinued after one hour. The mixture was left standing overnight and thereafter concentrated. The residue was treated with 2 N hydrochloric acid solution and with diethyl ether. The acidic aqueous layer was made alkaline with potassium carbonate and extracted with chloroform. The chloroform layer was treated with activated carbon, dried and concentrated. The residue was subjected to distillation. Boiling point 147° C./3 mm.Hg.

reactant | imidazole sodium | N1C=NC=C1.[Na]
reactant | benzyl chloromethyl ether | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | tetrahydrofuran | 100 g | O1CCCC1 | C4H8O
product | 1-[(benzyloxy)methyl]imidazole | C(C1=CC=CC=C1)OCN1C=NC=C1 | C11H12N2O
